US07122666B2
6(iii)′ (2S 4R)-1-Benzyloxycarbonyl-2-cyanomethyl-4-phenylpyrrolidine
2.32 g of 20% palladium hydroxide on carbon were added to a solution of 11.60 g (36.4 mmol) of (S)-1-benzyloxycarbonyl-2-cyanomethyl-4-phenyl-3-pyrroline [obtained as described in Preparative Example 6(ii)′ above] in 150 ml of ethyl acetate, and the resulting mixture was stirred for 7 hours at room temperature under a hydrogen atmosphere. At the end of this time, the reaction mixture was filtered and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was purified by chromatography on a silica gel column using a 4:1 by volume mixture of hexane and ethyl acetate as the eluant to afford 8.18 g (yield: 70%) of the title compound as a pale brown oil.

reactant | (S)-1-benzyloxycarbonyl-2-cyanomethyl-4-phenyl-3-pyrroline | 36.4 mmol, 11.60 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C=C(C1)C1=CC=CC=C1)CC#N | C20H18N2O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 2.32 g | [OH-].[OH-].[Pd+2]
product | (2S 4R)-1-Benzyloxycarbonyl-2-cyanomethyl-4-phenylpyrrolidine | 8.18 g, yield: 70% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)C1=CC=CC=C1)CC#N | C20H20N2O2
